US07348359B2
B. (2-Propoxy-3,5-di-tert-butylphenyl)-boronic acid
1-Bromo-3,5-di-tert-butyl-2-propoxy-benzene (6.55 g, 20 mmol) was dissolved in anhydrous 1,2-dimethoxy-ethane (125 mL under a nitrogen atmosphere. The solution was cooled to −75° C. and t-butyl lithium (30 mL, 50 mmol, 1.7M in pentane) was added dropwise over 20 min at −73° C. to −68° C. The reaction was stirred at −74° C. for 1 h and then treated with trimethyl borate (11.4 mL, 100 mmol). The reaction was kept cold for 1 h and then the bath was removed and the reaction allowed to warm to room temperature over 24 h. It was treated with 1N hydrochloric acid (70 mL) and stirred for 30 min. The reaction was then diluted with water (150 mL) and extracted with ethyl acetate (300 mL, 2×150 mL). The combined organic portions were washed with bicarbonate solution (150 mL), water (150 mL), brine (2×150 mL), dried (Na2SO4), filtered and evaporated in vacuo to provide 6.33 g of a yellow semi-solid. The material was purified by flash chromotography (eluet:(9:1)hexane:ethyl acetate and (3:1) hexane:ethyl acetate) to provide 3.34 g (57%) of a white solid. 1H NMR (250 MHz, CDCl3): δ 7.67 (d, 1H, J=2.6), 7.49 (d, 1H, J=2.6), 5.91 (m, 1H), 3.82 (t, 2H, J=7.1), 1.89 (m, 2H), 1.42 (s, 9H), 1.33 (s, 9H), 2.63 (t, 3H, J=7.4). MS [EI+] 293 (M+H)+ [EI−] 291 (M−H)+.

reactant | 1-Bromo-3,5-di-tert-butyl-2-propoxy-benzene | 20 mmol, 6.55 g | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCCC | C17H27BrO
reactant | t-butyl lithium | 50 mmol, 1.7M, 30 mL | C(C)(C)(C)[Li]
reactant | trimethyl borate | 100 mmol, 11.4 mL | B(OC)(OC)OC | C3H9BO3
solvent | 1,2-dimethoxy-ethane | COCCOC | C4H10O2
product | (2-Propoxy-3,5-di-tert-butylphenyl)-boronic acid | 6.33 g | C(CC)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)B(O)O | C17H29BO3
